US08609688B2
Synthesis of N-[1-(3-{3-[4-(1-aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)piperidin-4-yl]methanesulfonamide
A solution of 3-{3-[4-(1-aminocyclobutyl)phenyl]-5-[3-(4-aminopiperidin-1-yl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}pyridin-2-amine tetrahydrochloride (49 mg, 0.0731 mmol) in CH2Cl2 (2 mL) was added triethylamine (0.061 mL, 0.439 mmol), then methanesulfonyl chloride (0.006 mL, 0.0804 mmol) at 0° C. and stirred at r.t for 3.5 hours. The mixture was diluted with AcOEt, washed with 0.5N NaOH, brine, dried over Na2SO4, then filtrated. The filtrate was concentrated and the residue was purified by preparative thin-layer chromatography (CH2Cl2/MeOH=5:1) to afford desired product (24 mg, 54%) as pale yellow solid.

reactant | 3-{3-[4-(1-aminocyclobutyl)phenyl]-5-[3-(4-aminopiperidin-1-yl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}pyridin-2-amine tetrahydrochloride | 0.0731 mmol, 49 mg | Cl.Cl.Cl.Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2CCC(CC2)N)C=2C(=NC=CC2)N
reactant | triethylamine | 0.439 mmol, 0.061 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.0804 mmol, 0.006 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | N-[1-(3-{3-[4-(1-aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)piperidin-4-yl]methanesulfonamide | 24 mg, 54% | NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C=2C=C(C=CC2)N2CCC(CC2)NS(=O)(=O)C)C=2C(=NC=CC2)N | C33H36N8O2S
